US06649611B2
(2R, 5S)-5-Chloro-2-{2-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzoic acid
To a solution of (2R, 5S)-5-chloro-2-{2-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzoic acid methyl ester (4.12 g, 9.18 mmol) in tetrahydrofuran (10 ml), methanol (10 ml) and water (4 ml) was added lithium hydroxide monohydrate (1.93 g, 45.9 mmol). The resulting mixture was stirred overnight at ambient temperature. The reaction was then concentrated, diluted with 1N hydrochloric acid and extracted with dichloromethane (2×). The organic layers were combined, dried over magnesium sulfate, filtered and concentrated to give a white foam. Triteration in dichloromethane and diethyl ether gave the title compound (1.38 g, 35% yield).

reactant | (2R, 5S)-5-chloro-2-{2-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzoic acid methyl ester | 9.18 mmol, 4.12 g | COC(C1=C(C=CC(=C1)Cl)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)=O | C23H26ClFN2O4
reactant | lithium hydroxide monohydrate | 45.9 mmol, 1.93 g | O.[OH-].[Li+]
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 4 ml | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (2R, 5S)-5-Chloro-2-{2-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzoic acid | 1.38 g, 35% yield | ClC=1C=CC(=C(C(=O)O)C1)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C22H24ClFN2O4
